US07514419B2
To a mixture of methyl 3,5-dimethyl-4-(3′-iso-propyl-4′-methoxymethoxybenzyl)benzoate (1.00 g, 2.81 mmol) in THF (11.3 mL) at 0° C. was added a solution of DIBAL-H (8.44 mL, 8.44 mmol, 1.0 M solution in hexanes). The reaction mixture was stirred at room temperature for 16 h, quenched with cold 1 N HCl and diluted with ethyl acetate. The organic layer was washed with 1 N HCl and brine, dried over Na2SO4, filtered and concentrated under reduced pressure to afford 3,5-dimethyl-4-(3′-iso-propyl-4′-methoxymethoxy-benzyl)benzyl alcohol as an off-white solid (0.75 g, 81.3%): 1H NMR (300 MHz, DMSO-d6): δ 7.54 (s, 2H), 6.81 (m, 2H), 6.40 (m, 1H), 5.51 (m, 1H), 4.54 (d, J=6.0 Hz, 2H), 3.75 (s, 3H), 3.21 (m, 1H), 1.13 (d, J=6.0 Hz, 6H); TLC conditions: Uniplate silica gel, 250 microns; Mobile phase=ethyl acetate-hexanes (15:85); Rf=0.27.

reactant | methyl 3,5-dimethyl-4-(3′-iso-propyl-4′-methoxymethoxybenzyl)benzoate | 2.81 mmol, 1.00 g | CC=1C=C(C(=O)OC)C=C(C1CC1=CC(=C(C=C1)OCOC)C(C)C)C | C22H28O4
reactant | DIBAL-H | 8.44 mmol, 1.0 M, 8.44 mL | CC(C)C[AlH]CC(C)C
solvent | THF | 11.3 mL | C1CCOC1 | C4H8O
product | 3,5-dimethyl-4-(3′-iso-propyl-4′-methoxymethoxy-benzyl)benzyl alcohol | 0.75 g, 81.3% | CC=1C=C(CO)C=C(C1CC1=CC(=C(C=C1)OCOC)C(C)C)C | C21H28O3
